US07405230B2
To a mixture of 244 mg of 3-(2-aminoethyl)pyridine (2.0 mmol) and 604 mg of t-butyl 3-iodobenzoate (2.0 mmol) in 10 mL of toluene was added 250 mg of sodium t-butoxide (2.5 mmol), 30 mg of tri-t-butylphosphonium tetrafluoroborate (0.1 mmol) and 50 mg of tris(dibenzylidineacetone)dipalladium(0) (0.055 mmol). The mixture was stirred for 16 h and filtered through celite. The celite was washed with 3×5 mL of toluene and the filtrate was concentrated in vacuo. The residue was purified by column chromatography using 35%-45% EtOAc in hexanes as eluant to give 103 mg of t-butyl N-(2-(3-pyridyl)ethyl)-3-aminobenzoate as a bright yellow oil (17% yield).

reactant | 3-(2-aminoethyl)pyridine | 2.0 mmol, 244 mg | NCCC=1C=NC=CC1 | C7H10N2
reactant | t-butyl 3-iodobenzoate | 2.0 mmol, 604 mg | IC=1C=C(C(=O)OC(C)(C)C)C=CC1 | C11H13IO2
reactant | sodium t-butoxide | 2.5 mmol, 250 mg | CC(C)([O-])C.[Na+]
reactant | tri-t-butylphosphonium tetrafluoroborate | 0.1 mmol, 30 mg | F[B-](F)(F)F.C(C)(C)(C)[PH+](C(C)(C)C)C(C)(C)C
solvent | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
product | t-butyl N-(2-(3-pyridyl)ethyl)-3-aminobenzoate | 103 mg, 17% yield | N1=CC(=CC=C1)CCNC=1C=C(C(=O)OC(C)(C)C)C=CC1 | C18H22N2O2
